US04430498
A total of 0.380 g of 7β-amino-ceph-3-em-4-carboxylic acid diphenylmethyl ester is treated with 2 ml of anisole and 8 ml of absolute trifluoroacetic acid, the clear solution is allowed to stand for 10 minutes at room temperature and then diluted with about 20 ml of absolute toluene. The mixture is evaporated under reduced pressure; the residue is taken twice to dryness with toluene and then suspended in 5 ml of methanol, 5 ml of diethyl ether and 0.5 ml of water. The pH-value of the suspension is adjusted to 3.5 by adding dropwise a 5% solution of triethylamine in methanol; the reaction mixture is allowed to stand for 30 minutes in the ice-bath and the fine precipitate is filtered off with the use of a suitable glass suction filter. The slightly beige-coloured filter residue is washed with a mixture of methanol and methylene chloride, then with diethyl ether and dried at 35° under reduced pressure. The 7β-amino-ceph-3-em-4-carboxylic acid, which is obtained as a fine microcrystalline powder, decomposes at 215° C.; thin-layer chromatogram (silica gel: development with iodine): Rf=0.12 (system: n-butanol/acetic acid/water 67:10:23), Rf=0.28 (system: n-butanol/pyridine/acetic acid/water 40:24:6:30) and Rf=0.21 (system: ethyl acetate/n-butanol/pyridine/acetic acid/water 42:21:21:6:10); infrared absorption spectrum (in mineral oil): characteristic bands at 3.12μ, 3.80μ, 4.12μ (shoulder), 4.92μ, 5.54μ, 6.05μ (shoulder), 6.19μ, 6.55μ, 7.05μ, 7.42μ, 8.23μ, 8.79μ, 9.55μ, 12.08μ, 12.69μ and 13.04μ.

reactant | 7β-amino-ceph-3-em-4-carboxylic acid diphenylmethyl ester | 0.380 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2N)=O | C20H18N2O3S
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | about 20 ml | C1(=CC=CC=C1)C | C7H8
product | 7β-amino-ceph-3-em-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
